US09102591B2
2,3-dichloro-N-(3-cyclopropyl-2-(6-(2-hydroxypropan-2-yl) pyridin-3-yl)propyl)benzamide
From 2,3-dichlorobenzoic acid and 2-(5-(1-amino-3-cyclopropylpropan-2-yl)pyridin-2-yl)propan-2-ol. LCMS (MH+): m/z=407.1, tR (minutes, Method F)=1.98

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | 2-(5-(1-amino-3-cyclopropylpropan-2-yl)pyridin-2-yl)propan-2-ol | NCC(CC1CC1)C=1C=CC(=NC1)C(C)(C)O | C14H22N2O
product | 2,3-dichloro-N-(3-cyclopropyl-2-(6-(2-hydroxypropan-2-yl) pyridin-3-yl)propyl)benzamide | ClC1=C(C(=O)NCC(CC2CC2)C=2C=NC(=CC2)C(C)(C)O)C=CC=C1Cl | C21H24Cl2N2O2
